US05021413
4-(5-chloro-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-yl-methyl)thiomorpholine hydrochloride
The procedure described in Example 24 was repeated, but using 3.7 g of 3-(pyrrolidin-1-ylmethyl)thiomorpholine, 3.42 ml of triethylamine and 4.56 g of 5-chloro-3-oxoindan-1-carbonyl chloride, to afford 2.8 g of the title compound, melting at 200°-205° C. (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)thiomorpholine | 3.7 g | N1(CCCC1)CC1NCCSC1 | C9H18N2S
reactant | 5-chloro-3-oxoindan-1-carbonyl chloride | 4.56 g | ClC=1C=C2C(CC(C2=CC1)C(=O)Cl)=O | C10H6Cl2O2
solvent | triethylamine | 3.42 ml | C(C)N(CC)CC | C6H15N
product | 4-(5-chloro-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-yl-methyl)thiomorpholine hydrochloride | 2.8 g | Cl.ClC=1C=C2C(CC(C2=CC1)C(=O)N1C(CSCC1)CN1CCCC1)=O | InChI=1S/C19H23ClN2O2S.ClH/c20-13-3-4-15-16(9-13)18(23)10-17(15)19(24)22-7-8-25-12-14(22)11-21-5-1-2-6-21;/h3-4,9,14,17H,1-2,5-8,10-12H2;1H
